US03932465
A solution of 6.85 g of crystallised 3-(5-methoxycarbonyl-furfuryl)-7β-phenylacetyl-amino-ceph-2-em-4ξ-carboxylic acid in 50 ml of methanol is treated with 100 ml of ethyl acetate and the methanol is almost completely removed under reduced pressure. A total of 6.0 g of crude diphenyldiazomethane is then added in small amounts. The reaction mixture is freed from solvent after a total reaction period of 60 minutes at room temperature. The residual oil is triturated with 500 ml of petroleum ether, the undissolved material is filtered off and crystallised from 100 ml of hot ethyl acetate. The first crystalline fraction is recrystallised twice from a mixture of methylene chloride and cyclohexane to yield the 3-(5-methoxycarbonyl-furfuryl)-7β-phenylacetyl-amino-ceph-2-em-4ξ-carboxylic acid diphenylmethyl ester in the form of colourless felted needles, m.p. 164°-166°; [α]D20 = + 267° ± 1° (c = 1.134 in chloroform): thin-layer chromatogram (silica gel): Rf = 0.71 (system: toluene/ethyl acetate 1:1), Rf = 0.60 (system: toluene/ethyl acetate 2:1), Rf = 0.70 (system: toluene/acetone 2:1), Rf = 0.49 (system: toluene/acetone 4:1) and Rf = 0.30 (system toluene/acetone 9:1); ultraviolet absorption spectrum (in 95% ethanol): λmax = 268 mμ (ε = 21000) and λmin = 234 mμ (ε = 11000); infrared absorption spectrum (in mineral oil): characteristic bands at 2,98μ, 5,61μ, 5,74μ, 6,03μ, 6,53μ, 7,59μ, 8,26μ, 8,54μ, 8,72μ, 9,81μ, 10,14μ, 13,13μ and 14,42μ.

reactant | 3-(5-methoxycarbonyl-furfuryl)-7β-phenylacetyl-amino-ceph-2-em-4ξ-carboxylic acid | 6.85 g | COC(=O)C1=CC=C(CC2=C(S[C@H]3N(C2C(=O)O)C([C@H]3C(CC3=CC=CC=C3)=O)=O)N)O1 | C22H20N2O7S
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 50 ml | CO | CH4O
product | 3-(5-methoxycarbonyl-furfuryl)-7β-phenylacetyl-amino-ceph-2-em-4ξ-carboxylic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1C(=C(S[C@H]2N1C([C@H]2C(CC2=CC=CC=C2)=O)=O)N)CC2=CC=C(O2)C(=O)OC | C35H30N2O7S
